US05532249
EXAMPLE 29 9-(4-Pyridinylmethyl)-9H-fluoren-9-butanamide Hemihydrate
By substituting 4-bromobutyl acetamide and 9-(4-pyridinylmethyl)-9H-fluorene in Ex. 1, the product was obtained in 100% yield; mp 50°-52° C.

reactant | 4-bromobutyl acetamide | BrCCCCCC(=O)N | C6H12BrNO
reactant | 9-(4-pyridinylmethyl)-9H-fluorene | N1=CC=C(C=C1)CC1C2=CC=CC=C2C=2C=CC=CC12 | C19H15N
product | 9-(4-Pyridinylmethyl)-9H-fluoren-9-butanamide Hemihydrate | 100% yield | O.N1=CC=C(C=C1)CC1(C2=CC=CC=C2C=2C=CC=CC12)CCCC(=O)N.N1=CC=C(C=C1)CC1(C2=CC=CC=C2C=2C=CC=CC12)CCCC(=O)N | InChI=1S/2C23H22N2O.H2O/c2*24-22(26)10-5-13-23(16-17-11-14-25-15-12-17)20-8-3-1-6-18(20)19-7-2-4-9-21(19)23;/h2*1-4,6-9,11-12,14-15H,5,10,13,16H2,(H2,24,26);1H2
